US05547919
Methyl 4,6-dichloro-2-methyl-pyrimidin-5-yl-acetate (23.5 g, 0.1 mol), 3-isopropylphenol (13.6 g, 0.1 mol) and potassium carbonate (20.7 g, 0.15 mol) are heated in dimethylformamide (30 ml) at 100° C. for 45 minutes. The mixture is cooled and an aqueous solution of dimethylamine (50 ml of a 40% solution) is added. Stirring is continued for 16 hours at room temperature. Addition of water, filtering and drying gives the methyl 1-dimethylamino-2-methyl-pyrimidin-5-yl-acetate as a brownish solid (28 g).

reactant | Methyl 4,6-dichloro-2-methyl-pyrimidin-5-yl-acetate | 0.1 mol, 23.5 g | ClC1=NC(=NC(=C1CC(=O)OC)Cl)C | C8H8Cl2N2O2
reactant | 3-isopropylphenol | 0.1 mol, 13.6 g | C(C)(C)C=1C=C(C=CC1)O | C9H12O
reactant | potassium carbonate | 0.15 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 1-dimethylamino-2-methyl-pyrimidin-5-yl-acetate | 28 g | CN(N1C(N=CC(=C1)CC(=O)OC)C)C | C10H17N3O2
